Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
decreased energy
 
Major Surgical or Invasive Procedure:
___ AVR ( 23 mm ___ mechanical)

 
History of Present Illness:
___ year old man with a known childhood murmur who was echoed 
during a recent admission
for pneumonia and found to have severe aortic stenosis. Referred 
for AVR after cath showed clean coronaries.
 
Past Medical History:
bicuspid aortic valve, aortic stenosis,
aortic insufficiency, valvular induced cardiomyopathy, moderate
pulmonary hypertension (52/23), recent pneumonia

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Pulse: 82 O2 sat: 96%
B/P Left: 96/57 
Height: 73"  Weight: 90.9kg

General: Well-developed male in no acute distress
Skin: Dry [x] intact [xx]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur II/VI SEM radiating to
carotids and across precordium
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+
[x]
Extremities: Warm [x], well-perfused [x]  Edema/Varicosities:
None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:2+   Left:2+
___           Right:2+   Left:2+
Radial       Right:2+   Left:2+

Carotid Bruit    Right:-    Left:-

 
Pertinent Results:
Conclusions  
PRE-CPB:1. The left atrium is moderately dilated. No spontaneous 
echo contrast is seen in the left atrial appendage. No thrombus 
is seen in the left atrial appendage.
2. No atrial septal defect is seen by 2D or color Doppler.
3. There is moderate symmetric left ventricular hypertrophy. The 
left ventricular cavity is moderately dilated. Doppler 
parameters are most consistent with Grade II (moderate) left 
ventricular diastolic dysfunction.
4. Right ventricular chamber size and free wall motion are 
normal. 
5. There are simple atheroma in the descending thoracic aorta. 
6. The aortic valve is bicuspid. There is severe aortic valve 
stenosis (valve area 0.8-1.0cm2). Moderate (2+) aortic 
regurgitation is seen. The severity of aortic regurgitation may 
be underestimated. The aortic regurgitation jet is eccentric, 
directed toward the anterior mitral leaflet.
7. The mitral valve appears structurally normal with trivial 
mitral regurgitation. There is bilateral retraction of the 
mitral valve.
8. There is a small to moderate sized pericardial effusion.
9. A moderate left pleural effusion is seen.
Drs. ___ were notified in person of the 
results. 

POST-CPB: On infusions of epi, neo. AV pacing , then a pacing. 
Well-seated mechanical valve in the aortic position. Coronary 
flow seen in LMCA and RCA. Trace AI consistent with washing 
jets. Preserved ventricular function on inotropic support. LVEF 
is now 40%. Trace MR. ___ contour is normal post 
decannulation.   
  I certify that I was present for this procedure in compliance 
with ___ regulations.

Electronically signed by ___, MD, Interpreting 
physician ___ ___ 14:13  
   

 
Brief Hospital Course:
Mr. ___ was admitted on ___ and underwent AVR( mech AVR 
#23 ___ with Dr. ___. See operative note for details. 
Post operatively he remained intubated and was transferred to 
the CVICU in stable condition on epinephrine, phenylephrine, 
propofol, and lidocaine drips. He awoke neurologically intact, 
was weaned from the ventilator and extubated. Vasoactive 
medications were weaned after hemodynamic stability was 
achieved. Betablockers, diuretics and statin therapies were 
initiated and titrated. Chest tubes and temporary pacing wires 
were removed per protocol. Coumadin therpay was intiated for 
mechanical AVR. He was evaluated and treated by physical therapy 
for strength and conditioning. Mr. ___ was cleared for 
discharge to home on POD#4 with an INR of 2.0 by Dr. ___.
 
Medications on Admission:
lasix 20mg daily
zocor 40mg daily
KCL 20mEq daily
coreg 3.125mg daily
Amox 500mg (cont. after dental d/t symptoms from pna)
ASA

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain.  
4. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*65 Tablet(s)* Refills:*0*
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
7. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
8. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO once a day.  
10. Coumadin 2.5 mg Tablet Sig: as directed Tablet PO once a 
day: goal INR 2.5-3.0 for mechcanical aortic valve.
take 2.5 mg on ___ then as directed by Dr. ___.
Disp:*60 Tablet(s)* Refills:*2*
11. Outpatient Lab Work
___ for coumadin dosing indication mechanical aortic valve - 
goal INR 2.5-3.0 with results to ___ 
clinic fax # ___ ___ clinic and Dr ___ - 
first draw ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic stenosis, aortic insufficiency s/p Aortic valve 
replacement (Mech -#23mm St. ___
valvular-induced cardiomyopathy
pulmonary hypertension
recent Pneumonia
chronic systolic/diastolic heart failure

 
Discharge Condition:
alert and oriented
ambulating with steady gait
Sternal pain managed with dilaudid

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month until follow up with 
surgeon
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

 
Followup Instructions:
___